Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
scallops / oyster shell calcium
 
Attending: ___
 
Chief Complaint:
Weakness and numbness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
NIHSS Total: 3

1a. Level of Consciousness: 0
 1b. LOC Question: 0
 1c. LOC Commands: 0 
 2.  Best gaze: 0
 3.  Visual fields: 0
 4.  Facial palsy: 1
 5a. Motor arm, left: 0
 5b. Motor arm, right: 0
 6a. Motor leg, left: 0
 6b. Motor leg, right: 0
 7.  Limb Ataxia: 0
 8.  Sensory: 1
 9.  Language: 0
 10. Dysarthria: 1
 11. Extinction and Neglect: 0

Mr. ___ is a healthy ___ yo gentleman who presents w/ 
L.
weakness and numbness as a transfer from an OSH with concern for
R.IPH. 

___ notes that he was at his usual state of health until
6:30 ___ this evening.  Patient notes that earlier today he was
out shoveling snow for about ___ hours, he felt totally fine
and had no issues completing this task.  He then went inside
around 6:00 did some chores in the house for about half hour and
then was talking to his wife when he felt as if he was acutely
weak on the left side of his body, he notes that the left side 
of
his body "was not there".  He fell left into a door top desk
though did not hit the ground, or his head.  He then took a few
steps with the assistance of his wife towards a chair, declined
help and fell again.  He and his wife note this is incredibly
atypical for him, he does not have any difficulties ambulating 
at
baseline.  He additionally notes that he felt like his speech 
was
slurred at this time.  He reports holding his phone in his left
hand and being unsure whether or not it was actually in his 
hand.
He denies any confusion, any difficulty performing tasks, any
difficulty with language outside of the slightly slurred speech. 


His wife brought him into ___ where he was reported
to have a "right basal ganglia hemorrhage" and was transferred
here for further care, however we do not have access to this
imaging. He was notably noted to be hypertensive with systolics
ranging 150s to the 170s.

Since that time he feels as though his weakness and numbness has
been overall improving.  He categorically denies any headache. 
Nothing like this is ever happened before he, he has never had
periods of weakness, paresthesias, or slurred speech that has
resolved.  He denies any known history of hypertension, though
notes that he has been fairly healthy and does not always see a
doctor.
 
Past Medical History:
Glaucoma
 
Social History:
___
Family History:
Reports that his parents both died at relatively young ages, 
though denies any known history of stroke or other neurologic 
diseases   
 
Physical Exam:
Vitals: 97.2, HR 89, BP 168/92, RR 16, 94% RA 
 General: Awake, cooperative, sitting up in bed.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx.
 Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity.
 Pulmonary: Normal work of breathing.
 Cardiac: RRR, warm, well-perfused.
 Abdomen: Soft, non-distended.
 Extremities: 1+ ___ edema 
 Skin: No rashes or lesions noted.
  
 Neurologic:
 -Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. + mild dysarthia. Able to follow both 
midline
and appendicular commands. There was no evidence of apraxia or
neglect. No agraphathesia. No extinction. 

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.  
 V: Facial sensation decreased to light touch 
 VII: L. NLFF, mild decreased activation 
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. + subtle pronator 
drift.
decreased rapid movement of left hand. No adventitious 
movements,
such as tremor or asterixis noted.
   [___]
  L   5-   5    5    5-   5    5   5-   5    5   5    5    4+
  R   5    5    5    5    5    5   5    5    5   5    5    4+

-Sensory: Decreased sensation to pinprick on essentially left
hemibody (notes 30% compared to 100% on right) slightly more
prominent at proximal > distal ext. Similarly decreased 
sensation
to temperature. Though proprioception is relatively intact to
large excusrions of finger and thumb, possibly some subtle
decrease to small excrusions on left. No extinction. 

-Reflexes:
   [Bic] [Tri] [___] [Pat] [Ach]
 L   2     2      2      2     0
 R   2     2      2      2     0 
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Slight dysmetria w/ FNF of
left hand and HKS of left leg. 

-Gait: Did not ambulate as pt was being taken to CT 

====
Physical Exam at Discharge:
 PHYSICAL EXAMINATION: 
 Vitals: reviewed in metavision 
 General: Awake, cooperative, sitting up in bed.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx.
 Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity.
 Pulmonary: Normal work of breathing.
 Cardiac: RRR, warm, well-perfused.
 Abdomen: Soft, non-distended.
 Extremities: 1+ ___ edema 
 Skin: No rashes or lesions noted.
  
 Neurologic:
 -Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. + mild dysarthia represented as intermittent
slurring of speech. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect. . No
extinction. 

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.  
 V: Facial sensation decreased to light touch 
 VII: L. NLFF, mild decreased activation 
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. + subtle pronator 
drift.
decreased rapid movement of left hand. No adventitious 
movements,
such as tremor or asterixis noted.
   [___]
  L   5    5    5    5    5    5   4+   5    5   5    5    4
  R   5    5    5    5    5    5   5    5    5   5    5    4+

-Sensory: Decreased sensation to L on soft touch.  No 
extinction.

-Reflexes:DIffered. 

-Coordination: No intention tremor. Slight dysmetria w/ FNF of
left hand and HKS of left leg. No pronation or drift. No 
rebound.

-Gait: normal gait.  walked forward, backward, turned in 
circles.

 
Pertinent Results:
___ 06:40AM BLOOD WBC-8.7 RBC-4.48* Hgb-13.9 Hct-41.6 
MCV-93 MCH-31.0 MCHC-33.4 RDW-12.9 RDWSD-43.8 Plt ___
___ 11:05PM BLOOD Neuts-53.5 ___ Monos-13.9* 
Eos-4.0 Baso-1.1* Im ___ AbsNeut-4.45 AbsLymp-2.24 
AbsMono-1.15* AbsEos-0.33 AbsBaso-0.09*
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD ___ PTT-29.0 ___
___ 06:40AM BLOOD Glucose-98 UreaN-13 Creat-0.9 Na-141 
K-4.0 Cl-106 HCO3-23 AnGap-12
___ 06:40AM BLOOD ALT-10 AST-18 AlkPhos-95 TotBili-0.5
___ 06:40AM BLOOD %HbA1c-5.5 eAG-111
___ 06:40AM BLOOD Triglyc-102 HDL-43 CHOL/HD-3.9 
LDLcalc-103
___ 06:40AM BLOOD TSH-3.1

==============

Final Report 
EXAMINATION:  CTA HEAD AND CTA NECK ___ CT HEADNECK 
  
INDICATION:  History: ___ with left sided weakness and slurred 
speech. 
  
TECHNIQUE:  Helically acquired rapid axial imaging was performed 
from the 
aortic arch through the brain during the infusion of intravenous 
contrast 
material. Three-dimensional angiographic volume rendered, curved 
reformatted 
and segmented images were generated on a dedicated workstation. 
This report is 
based on interpretation of all of these images. 
  
DOSE:  Acquisition sequence: 
   1) Stationary Acquisition 3.5 s, 0.5 cm; CTDIvol = 17.4 mGy 
(Body) DLP = 
8.7 mGy-cm. 
   2) Spiral Acquisition 5.1 s, 39.7 cm; CTDIvol = 15.2 mGy 
(Body) DLP = 604.7 
mGy-cm. 
 Total DLP (Body) = 613 mGy-cm. 
  
COMPARISON:  CT head ___ at 12:06 a.m., less than 1 
hour prior. 
Subsequent MRI Head ___. 
  
FINDINGS:  
  
Some of the images have been degraded by streak artifact from 
dental amalgam.  
Allowing for this; 
  
CTA NECK: 
Bilateral carotid and vertebral artery origins are patent. 
There is ___ stenosis, by NASCET criteria, of the bilateral 
proximal 
internal carotid arteries secondary to predominantly calcified 
plaque on the 
right and calcified plaque on the left.  Bilateral cervical 
vertebral arteries 
are widely patent. 
  
CTA HEAD: 
There is atheromatous calcification of the carotid siphons 
bilaterally and in 
the proximal V4 segment the left vertebral artery without 
flow-limiting 
stenosis.  No evidence for flow-limiting stenosis elsewhere in 
the major 
intracranial arteries.  No evidence for an aneurysm or 
arteriovenous 
malformation.  The dural venous sinuses are patent. 
  
OTHER: 
Right basal ganglia hemorrhage with intraventricular extension 
is again noted, 
better assessed on the preceding noncontrast head CT.  There is 
mild mucosal 
thickening in the ethmoid and frontal sinuses.  Mastoid air 
cells and 
pneumatized left petrous apex air cells are well aerated. 
  
The thyroid is unremarkable.  No cervical lymphadenopathy by CT 
criteria.  
There are numerous nonenlarged bilateral paratracheal and AP 
window lymph 
nodes.  Several right paratracheal lymph nodes contains small 
calcifications, 
suggesting prior granulomatous disease.  There is mild 
atelectasis in the 
included upper lungs.  There is also mild pleural/parenchymal 
scarring at the 
lung apices, right greater than left, with small calcifications 
on the left.  
There is multilevel cervical spondylosis. 
  
IMPRESSION: 
  
  
1. No evidence for an intracranial aneurysm or arteriovenous 
malformation. 
2. ___ stenosis of bilateral proximal internal carotid 
arteries by NASCET 
criteria. 
3. Right basal ganglia hemorrhage with intraventricular 
extension, better 
assessed on the immediately preceding noncontrast head CT. 
4. Numerous nonenlarged paratracheal and AP window lymph nodes, 
etiology 
unclear.  Several right paratracheal lymph nodes contain 
calcifications, 
suggesting prior granulomatous disease. 
=========
Final Report 
EXAMINATION:  MR HEAD W AND W/O CONTRAST T9112 MR HEAD. 
  
INDICATION:  History: ___ with left sided weakness  // eval 
hemorrhagic 
stroke. 
  
TECHNIQUE:  Sagittal and axial T1 weighted imaging were 
performed. After 
administration of 8 mL of Gadavist intravenous contrast, axial 
imaging was 
performed with gradient echo, FLAIR, diffusion, and T1 
technique. Sagittal 
MPRAGE imaging was performed and re-formatted in axial and 
coronal 
orientations. 
  
COMPARISON:  CTA head and neck ___, CT head ___. 
  
FINDINGS:  
  
There are several scattered areas of low signal on GRE 
corresponding with 
hemorrhage, in the region of the right basal ganglia 
particularly in the 
putamen and thalamus, the largest measuring about 2.8 x 1.1 cm 
(11; 14).  
There is intraventricular extension of hemorrhage into the  
lateral 
ventricles, with layering blood in the bilateral occipital horns 
(11; 13, 15). 
  
There is an area of restricted diffusion in the right basal 
ganglia extending 
into the right temporal lobe, corresponding with increased 
signal intensity on 
DWI and low signal on ADC, and increased signal on FLAIR (5, 6; 
18).  There is 
associated edema around this diffusion abnormality (11, 12; 14). 
 There is 
minimal mass effect with no midline shift or hydrocephalus. 
  
Cavum septum pellucidum et vergae is redemonstrated.  Prominent 
ventricles and 
sulci are associated with age related involutional change.  
There are multiple 
foci of subcortical and periventricular hyperintensities on T2 
and FLAIR which 
are nonspecific and likely represent chronic small vessel 
ischemic disease.  
Flow voids are preserved. 
  
Mucosal thickening of the ethmoid air cells is seen.  The 
visualized portion 
of the orbits is normal. 
  
There is no abnormal enhancement after contrast administration. 
  
IMPRESSION: 
  
  
1. Scattered right basal ganglia hemorrhage, with 
intraventricular extension, 
and minimal mass effect, which is most likely a hypertensive 
hemorrhage due to 
its location and distribution, or alternatively due to 
hemorrhagic 
transformation of an acute right basal ganglia infarct. 
2. No evidence of underlying tumor or mass. 
3. Chronic small vessel ischemic disease. 
=============
EKG: Sinus rhythm
within normal limits
No previous ECGs available
 
Brief Hospital Course:
Mr. ___ is a ___ yo w/ pmhx of glaucoma who is admitted to 
the Neurology stroke service for evaluation of left sided 
weakness and numbness. On CTH found to have R.IPH (likely tail 
of putamen vs IC, and thalamus) and tiny area of 
intraventricular extension (ICH1). Etiology of IPH most likely 
hypertensive given past history and presentation on imaging. 
Unable to exclude ischemic stroke with hemorrhagic 
transformation. MRI conducted on ___ corroborated CT findings 
of stable hemorrhage in the right basal ganglia with 
intraventricular extension - no evidence of underlying tumor or 
mass. EKG showed NSR. On physical exam, weakness and numbness 
improved throughout hospital stay (reported sensation at 80% on 
left lower extremity with no weakness at discharge). Slight 
dysarthria and R NFLL remains due to facial droop. 
Patient started on lisinopril 5 mg to control hypertension for 
stroke prevention. 
Other vascular risk factors within normal limits.
His exam on discharge was notable for left nasolabial fold 
flattening, slight dysarthria, and 80% sensation on left lower 
extremity.
His stroke risk factors include the following:
1) Hypertension (BP on admission 168/92)

-----------
Transitional issues:
- Follow-up with your primary care provider for hypertension 
management and other primary prevention.
-Obtain repeat MRI with and without contrast in 2 to 3 months to 
rule out underlying mass.
-Follow-up with stroke neurology in 2 to 3 months.

========================================

AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No. If 
no, reason why:
2. DVT Prophylaxis administered? () Yes - (x) No. bleeding risk 
and ambulating 
3. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No. If no, why not? (I.e. patient at 
baseline functional status)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO QID:PRN Reflux 
2. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
2.  Calcium Carbonate 500 mg PO QID:PRN Reflux  
3.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID  
4.Outpatient Occupational Therapy
Evaluation and Treatment:

Nontraumatic intracerebral hemorrhage, unspecified
ICD 10 code: ___.9
5.Outpatient Physical Therapy
Evaluation and Treatment:

Nontraumatic intracerebral hemorrhage, unspecified
ICD 10 code: ___.9
6.Outpatient Speech/Swallowing Therapy
Evaluation and Treatment:

Nontraumatic intracerebral hemorrhage, unspecified
ICD 10 code: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemorrhagic Stroke 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
==================================================
Dear Mr. ___,

You were hospitalized due to symptoms of left sided weakness and 
numbness resulting from an ACUTE HEMORRHAGIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by lack of blood flow secondary to a bleed. The brain 
is the part of your body that controls and directs all the other 
parts of your body, so damage to the brain from being deprived 
of its blood supply can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

-Age, hypertension.

We are changing your medications as follows:

- Starting lisinopril 5 mg daily

-You will need to follow-up with your primary care provider, as 
well as the stroke neurologist for ongoing management.  You will 
need a repeat MRI with and without contrast and 2 to 3 months to 
rule out underlying mass.

Please take your other medications as prescribed.
Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
======================================

 
Followup Instructions:
___